US05387585
4. 15.7 g of 2-(chloromethyl)-4-hydrazinothieno[3,2-d]pyrimidine are suspended in 280ml of ethyl orthoformate. The suspension is heated (bath temp. 125° C.) while stirring and the ethanol which results is distilled off. After 3 h., the mixture is cooled to 0° C., the precipitate is filtered off and washed with ethanol. The product is dried in a vacuum. There are obtained 15.2 g of 5-(chloromethyl)thieno[2,3-e][1,2,4]triazolo[4,3-c]-pyrimidine. m.p. above 400° C. (dec.).

reactant | 2-(chloromethyl)-4-hydrazinothieno[3,2-d]pyrimidine | 15.7 g | ClCC=1N=C(C2=C(N1)C=CS2)NN | C7H7ClN4S
reactant | ethanol | C(C)O | C2H6O
solvent | ethyl orthoformate | 280ml | C(OCC)([O-])[O-]
product | 5-(chloromethyl)thieno[2,3-e][1,2,4]triazolo[4,3-c]-pyrimidine | 15.2 g | ClCC1=NC2=C(C=3N1C=NN3)SC=C2 | C8H5ClN4S
